US07915411B2
N′-(5-Cyano-pyrimidin-4-yl)-N,N-dimethyl-formamidine
The title compound was prepared from the reaction of 4-Amino-5-pyrimidinecarbonitrile (Aldrich) with N,N-dimethylformamide dimethyl acetal using the procedure from Example 156B to provide the title compound.

reactant | 4-Amino-5-pyrimidinecarbonitrile | NC1=NC=NC=C1C#N | C5H4N4
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | N′-(5-Cyano-pyrimidin-4-yl)-N,N-dimethyl-formamidine | C(#N)C=1C(=NC=NC1)N=CN(C)C | C8H9N5
